US04517191
A solution of 85% potassium hydroxide (2.25 g, 0.035 m) in 7.8 ml of water was added to a refluxing solution of 4.5 g (0.016 m) of ethyl 1-(N-formylmethylamino)-1,4-dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylate in 141 ml of absolute ethanol. The reaction mixture was heated at reflux for one hour, then allowed to stand at room temperature for three days, and poured into 100 ml of ice-water and filtered. The filtrate while cold was acidified with acetic acid, and the solid product was collected by filtration, washed with water and dried at 50° C. in vacuo to yield 3.3 g of 1,4-dihydro-7-methyl-1-methylamino-4-oxo-1,8-naphthyridine-3-carboxylic acid, beige solid, m.p. 215°-217° C.

reactant | potassium hydroxide | 2.25 g | [OH-].[K+]
reactant | ethyl 1-(N-formylmethylamino)-1,4-dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylate | 4.5 g | C(=O)CNN1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)OCC | C14H15N3O4
solvent | water | 7.8 ml | O | H2O
solvent | ethanol | 141 ml | C(C)O | C2H6O
product | 1,4-dihydro-7-methyl-1-methylamino-4-oxo-1,8-naphthyridine-3-carboxylic acid | 3.3 g | CC1=CC=C2C(C(=CN(C2=N1)NC)C(=O)O)=O | C11H11N3O3
